US06329528B1
Into a 25-mL three-necked round bottom flask equipped with a magnetic stirrer was added 2-chloro-6-fluorobenzthioamide (1.89 g, 10.0 mmol) and toluene (10 mL). Dimethylsulfate was added dropwise and the mixture was allowed to stir at reflux using a Dean Stark trap. The solids were removed via filtration and washed with small portions of toluene to give methyl 2-chloro-6-fluorobenzthioimidate as a light yellow solid: 2.7 g (87% yield): 1H NMR (DMSO-d6) δ7.7 (m, 1H), 7.5 (m, 2H), 3.3 (s, 3H), 2.7 (s, 3H); 98% pure by HPLC analysis.

reactant | 2-chloro-6-fluorobenzthioamide | 10.0 mmol, 1.89 g | ClC1=C(C(N)=S)C(=CC=C1)F | C7H5ClFNS
reactant | Dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-chloro-6-fluorobenzthioimidate | 87% yield | ClC1=C(C(=N)SC)C(=CC=C1)F | C8H7ClFNS
